US05382572
Following the procedure of Step (2) of Preparation A, isatoic anhydride was reacted with hexyl bromide to produce 1-hexyl-isatoic anhydride.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | hexyl bromide | C(CCCCC)Br | C6H13Br
product | 1-hexyl-isatoic anhydride | C(CCCCC)C12C(=O)OC(NC1C=CC=C2)=O | C14H19NO3
